US20010044433A1
In a 1 I flask (5R)-5-hydroxy-L-lysine (10 g, 0.040 mol), 1-hydroxybenzotriazole hydrate (8.2 g, 0.060 mol) and 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide-HCl (11.6 g, 0.060 mol) are added to 500 ml DMF with stirring. After 0.5 h triethylamine (16.8 ml, 0.120 mol) is added. The reaction is stirred at rt for 48 h. Di-tert-butyl dicarbonate (17.6 g, 0.080 mol) and triethylamine (16.8 ml, 0.120 mol) are added. Stirring is continued for 16 h. The reaction mixture is filtered to remove triethylamine-HCl and the solvent is removed by rotary evaporation under high vacuum to give a thick oil. The oil is dissolved in 150 ml CH2Cl2 and applied to a silica gel column (150 g, 40×250 mm). The column is eluted with 3% methanol in CH2Cl2 to give the crude product as a solid. The crude solid is dissolved in 120 ml hot CH2Cl2 and cooled to −20° C. for 1 h. The resulting solid is filtered and washed with 50 ml CH2Cl2. The combined filtrates are evaporated to dryness. CH2Cl2 (40 ml) is added to this residue and the resulting slurry is stirred for 0.5 h at rt. The slurry is filtered and the solid washed with 25 ml CH2Cl2. The solids are combined to give 5.57 g of (3S, 6R)-3-(tert-butoxycarbonyl)aminohexahydro-6-hydroxy-2H-azepin-2-one. 300 MHz 1H NMR (DMSO) δ 7.42 (1 H, t, J =5.1 Hz), 6.38 (1 H, d, J =6.6 Hz), 4.60 (1 H, d, J =4.2 Hz), 4.07 (1 H,m), 3.74 (1 H, m), 3.32 (1 H, m), 3.03 (1 H, m), 1.8-1.5 (4 H, m), 1.39 (9 H, s).

reactant | (5R)-5-hydroxy-L-lysine | 0.040 mol, 10 g | O[C@H](CC[C@H](N)C(=O)O)CN | C6H14N2O3
reactant | 1-hydroxybenzotriazole hydrate | 0.060 mol, 8.2 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide-HCl | 0.060 mol, 11.6 g | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 0.120 mol, 16.8 ml | C(C)N(CC)CC | C6H15N
reactant | Di-tert-butyl dicarbonate | 0.080 mol, 17.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 0.120 mol, 16.8 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 120 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
product | (3S, 6R)-3-(tert-butoxycarbonyl)aminohexahydro-6-hydroxy-2H-azepin-2-one | 5.57 g | C(C)(C)(C)OC(=O)N[C@@H]1C(NC[C@@H](CC1)O)=O | C11H20N2O4
